US07141583B2
(5R)-3-[4-(3,6-Dihydro-2H-thiopyran-4-yl)-3,5-difluorophenyl-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one
Methanesulfonic acid (5R)-3-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3,5-difluorophenyl]-2-oxo-oxazolidin-5-ylmethyl ester (1.1 g, 5.7 mmol) was dissolved in dry N,N-dimethylformamide (5 ml) and sodium azide (0.35 g, 5.43 mmol) was added. It was heated at 60° C. for 18 hours. The reaction mixture was cooled to room temperature, diluted with ethylacetate, washed with water and dried over magnesium sulfate. Solvent was removed under vacuum to give an oil. The crude intermediate azide was not characterized. It was taken up in 1,4-dioxane (20 ml), bicyclo[2.2.1]hepta-2,5-diene (1.0 g, 10.9 mmol) was added and it was refluxed for 12 hours. Solvent was removed under vacuum and the residue chromatographed on silica gel with 5% methanol in dichloromethane to give the title compound (0.62 g).

reactant | Methanesulfonic acid (5R)-3-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3,5-difluorophenyl]-2-oxo-oxazolidin-5-ylmethyl ester | 5.7 mmol, 1.1 g | S1CCC(=CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)COS(=O)(=O)C)=O)F | C16H17F2NO5S2
reactant | sodium azide | 5.43 mmol, 0.35 g | [N-]=[N+]=[N-].[Na+]
reactant | azide | [N-]=[N+]=[N-]
reactant | bicyclo[2.2.1]hepta-2,5-diene | 10.9 mmol, 1.0 g | C12C=CC(C=C1)C2 | C7H8
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 4-(3,6-Dihydro-2H-thiopyran-4-yl)-3,5-difluorophenyl-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | 0.62 g | S1CCC(=CC1)C1=C(C=C(C=C1F)N1C(OC(C1)CN1N=NC=C1)=O)F | C17H16F2N4O2S
